US08026257B2
tert-Butyl 4-(((5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
A flask was charged with 5-bromo-7-(bromomethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole (220 mg, 0.52 mmol), tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (160 mg, 0.55 mmol), and dimethylformamide (2.5 mL). The reaction was cooled to 0° C. and treated with sodium hydride (26.4 mg, 1.1 mmol) in several portions. After stirring for 15 min, the ice bath was removed and stirring continued for 15 min. The reaction was cooled to 0° C. and quenched by the cautious addition of saturated ammonium chloride. The reaction was poured into diethyl ether, washed with water (3×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%→25% EtOAc/Hex) gave 233 mg (71%) as a gum. 1H-NMR (CDCl3, 500 MHz) δ 7.87 (s, 1H), 7.78 (d, J=1.5 Hz, 1H), 7.27 (d, J=1.8 Hz, 1H), 7.19 (m, 5H), 5.32 (s, 2H), 4.65 (s, 2H), 3.67 (bs, 2H), 3.41 (s, 2H), 3.36 (t, J=8.2 Hz, 2H), 3.00 (m, 2H), 2.11 (m, 2H), 1.76 (m, 2H), 1.41 (s, 9H), 0.75 (t, J=8.2 Hz, 2H), −0.10 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 155.0, 142.7, 137.1, 133.1, 131.4, 128.4, 127.8, 127.1, 126.4, 123.5, 122.8, 113.7, 79.4, 79.1, 78.8, 70.4, 66.0, 41.5, 40.2 (br), 32.1, 28.6, 17.8, −1.40.

reactant | 5-bromo-7-(bromomethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole | 0.52 mmol, 220 mg | BrC=1C=C2C=NN(C2=C(C1)CBr)COCC[Si](C)(C)C | C14H20Br2N2OSi
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 0.55 mmol, 160 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | sodium hydride | 1.1 mmol, 26.4 mg | [H-].[Na+]
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(((5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | BrC=1C=C2C=NN(C2=C(C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C31H44BrN3O4Si
